US06235785B1
A. Preparation of 2-butyl-1,3-dimethoxybenzene
1,3-Dimethoxybenzene (15.0 g, 109 mmol) was alkylated with 1-iodobutane as described above for the preparation of Example 10(A) except that the final reaction mixture was not refluxed. Purification via silica gel chromatography (ethyl acetate/hexane) provided 15.0 g (71%) of the title intermediate product as a yellow oil: NMR (CDCl3) 7.18 (t, J=8.2 Hz, 1H), 6.59 (d, J=9.7 Hz, 2H), 3.84 (s, 6H), 2.70 (t, J=8.7 Hz, 2H), 1.50 (hextet, J=6 Hz, 2H), 1.44 (quintet, J=6 Hz, 2H), 0.98 (t, J=8.2 Hz, 3H); MS-FD m/e 194 (p).

reactant | 1,3-Dimethoxybenzene | 109 mmol, 15.0 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | 1-iodobutane | ICCCC | C4H9I
product | 2-butyl-1,3-dimethoxybenzene | 15.0 g, 71% | C(CCC)C1=C(C=CC=C1OC)OC | C12H18O2
